US06239131B1
Preparation of 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-(3-methyl-2-butenyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid
1-[1-(2-Toluoylmethyl)-2-oxo-5-(3-methyl-2-butenyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea (310 mg) was dissolved in methanol (16 ml), aqueous lithium hydroxide monohydrate (112 mg) solution (8 ml) and tetrahydrofuran (8 ml) were added, and the mixture was refluxed for 50 minutes. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in water (150 ml), washed with diethyl ether, acidified with 1N hydrochloric acid, and extracted with methylene chloride. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and a mixed solvent of diisopropyl ether and n-hexane were added to the residue for trituration, collected by filtration, to thereby obtain 230 mg of the titled compound (Yield: 78.3%).

reactant | 1-[1-(2-Toluoylmethyl)-2-oxo-5-(3-methyl-2-butenyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 310 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)CC=C(C)C)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O)C | C34H38N4O5
reactant | lithium hydroxide monohydrate | 112 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | methanol | 16 ml | CO | CH4O
product | 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-(3-methyl-2-butenyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid | 230 mg, Yield: 78.3% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)CC=C(C)C)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O)C | C32H34N4O5
